US06673799B1
trans-4-(4-Cyano-3-trifluoromethylphenyl)-2,5-dimethyl-N-phenethylpiperazine-1-carboxamide
A 5 ml portion of acetonitrile, 0.17 ml of triethylamine and 0.26 ml of DPPA were added to 180 mg of hydrocinnamic acid and heated under reflux for 1.5 hours. The reaction mixture was spontaneously cooled, mixed with 280 mg of trans-4-(2,5-dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile synthesized in Reference Example 1-1 and stirred at room temperature for 1 hour. The solvent was evaporated under reduced pressure and the residue was purified by a silica gel column chromatography to obtain 204 mg of the title compound from ethyl acetate-chloroform (2:1, v/v) eluate as colorless oil.

reactant | acetonitrile | C(C)#N | C2H3N
reactant | DPPA | 0.26 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | hydrocinnamic acid | 180 mg | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
reactant | trans-4-(2,5-dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile | 280 mg | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C=C1)C(F)(F)F | C14H16F3N3
solvent | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
product | trans-4-(4-Cyano-3-trifluoromethylphenyl)-2,5-dimethyl-N-phenethylpiperazine-1-carboxamide | 204 mg | C(#N)C1=C(C=C(C=C1)N1C[C@@H](N(C[C@H]1C)C(=O)NCCC1=CC=CC=C1)C)C(F)(F)F | C23H25F3N4O
